US09227985B2
9-Methyl-7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
A reaction mixture of 9-bromo-7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (17 mg, 0.04 mmol), a solution of 2.0 M methylzinc chloride in THF (0.10 mL) and tetrakis(triphenylphosphine)palladium(0) (2 mg, 0.002 mmol) in THF (0.5 mL) under nitrogen was heated in a microwave at 130° C. for 5 min. The title compound was purified by preparative LCMS using a pH10 buffer. LCMS calc. for C20H19N4O2 (M+H)+: m/z=347.1. found: 347.2.

reactant | 9-bromo-7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.04 mmol, 17 mg | BrC=1C=C(C2=C3N(C(CO2)C2=CC=CC=C2)C(NC13)=O)C1=CC=NN1C | C19H15BrN4O2
reactant | methylzinc chloride | 2.0 M | [Cl-].C[Zn+]
solvent | THF | 0.10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mmol, 2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-Methyl-7-(1-methyl-1H-pyrazol-5-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | CC=1C=C(C2=C3N(C(CO2)C2=CC=CC=C2)C(NC13)=O)C1=CC=NN1C | C20H18N4O2
